US06376491B1
To a mixture of 3-cyclopropyl-4-hydroxy-benzofuran-2-carboxylic acid ethyl ester (92 mg) and potassium carbonate (62 mg) in N,N-dimethylformamide (1.5 ml) was added 1,3-dibromopropane (190 μl) and the reaction mixture was stirred for 2 hours at room temperature. The reaction was quenched with saturated aqueous ammonium chloride solution (5 ml) and diluted with ethyl acetate (8 ml). The organic layer was washed with water (5 ml twice) and brine, dried over anhydrous sodium sulfate, then concentrated in vacuo to dryness. The residue was purified by silica gel column chromatography developed by hexane-ethyl acetate to give 4-(3-bromo-propoxy)-3-cyclopropyl-benzofuran-2-carboxylic acid ethyl ester (120 mg) as a white solid. EI-MS: m/z 368 (M+); 1H-NMR (CDCl3): δ 0.91-0.95 (4H, m), 1.37 (3H, t, J=7.26 Hz), 2.36 (2H, quintet, J=7.26 Hz), 2.47-2.51 (1H, m), 3.60 (2H, t, J=7.26 Hz), 4.16 (2H, t, J=7.26 Hz), 4.37 (2H, q, J=7.26 Hz), 6.58 (1H, d, J=8.25 Hz), 7.07 (1H, d, J=8.25 Hz), 7.24 (1H, dd, J=8.25 Hz, 8.25 Hz).

reactant | 3-cyclopropyl-4-hydroxy-benzofuran-2-carboxylic acid ethyl ester | 92 mg | C(C)OC(=O)C=1OC2=C(C1C1CC1)C(=CC=C2)O | C14H14O4
reactant | potassium carbonate | 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 190 μl | BrCCCBr | C3H6Br2
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 4-(3-bromo-propoxy)-3-cyclopropyl-benzofuran-2-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)C=1OC2=C(C1C1CC1)C(=CC=C2)OCCCBr | C17H19BrO4
